US09145380B2
e) (E)-Ethyl 2-(6-bromopyridin-3-yl)ethenesulfonate
Ethyl methanesulfonate (1.00 mL, 9.34 mmol) was dissolved in anhydrous tetrahydrofuran (20 mL) in an oven dried round bottle under an atmosphere of argon. The solution was cooled to −78° C. and 2.5 M n-butyllithium in hexane (4.09 mL, 10.23 mmol) was added dropwise over 15 min. The mixture was stirred at −78° C. for 15 min and diethyl chlorophosphate (0.78 mL, 5.38 mmol) was added dropwise. The reaction was stirred at −78° C. for 1 h and then the temperature was allowed to reach 0° C. before recooling to −78° C. A solution of 2-bromo-5-formylpyridine (1.0 g, 5.38 mmol) in anhydrous tetrahydrofuran (5 mL) was added dropwise over 15 min and the resulting mixture was stirred for 15 min and then allowed to reach ambient temperature. Water (3 mL) was added and the solvent was evaporated in vacuo. The residue was partitioned between diethyl ether and water. The aqueous phase was extracted with diethyl ether and the formed precipitate was filtered off and rinsed with diethyl ether. This was pure product which was pooled with the rest of the material after purification. The aqueous phase was extracted once more with diethyl ether and the combined organic phases were dried over magnesium sulfate and concentrated. Purification by column chromatography, using a gradient of 10-60% ethyl acetate in heptane as the eluent, gave 0.77 g pooled with the material from the extractive work up to give 1.42 g (90% yield) of the title compound.

reactant | Ethyl methanesulfonate | 9.34 mmol, 1.00 mL | CS(=O)(=O)OCC | C3H8O3S
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | hexane | 10.23 mmol, 4.09 mL | CCCCCC | C6H14
reactant | diethyl chlorophosphate | 5.38 mmol, 0.78 mL | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | 2-bromo-5-formylpyridine | 5.38 mmol, 1.0 g | BrC1=NC=C(C=C1)C=O | C6H4BrNO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | Water | 3 mL | O | H2O
product | (E)-Ethyl 2-(6-bromopyridin-3-yl)ethenesulfonate | 1.42 g, 90% yield | BrC1=CC=C(C=N1)/C=C/S(=O)(=O)OCC | C9H10BrNO3S
